### PR TITLE
Negation on real numbers

### PR DESCRIPTION
**Pull request by lowasser**

### CODE REVIEW

**Comment by EgbertRijke** [comment]
Awesome!

**Comment by EgbertRijke** [comment]
Some formatting needs to be edited, I'll give you a more detailed review later.

**Comment by lowasser** [comment]
I've attempted to update the formatting, PR title, etc. in accordance with what you've said elsewhere.

File: src/real-numbers/negation-real-numbers.lagda.md [hunk 1]
```diff
@@ -0,0 +1,156 @@
...
+open import real-numbers.dedekind-real-numbers
+```
+
+</details>
+
+## Idea
+
+The negation of a Dedekind real number with cuts `L, U` has lower cut equal to
+the negation of elements of `U`, and upper cut equal to the negation of elements
+in `L`.
```
Comment (EgbertRijke) [inline src/real-numbers/negation-real-numbers.lagda.md:39]:
```suggestion
The {{#concept "negation" Disambiguation="Dedekind real number" Agda=neg-ℝ}} of a [Dedekind real number](real-numbers.dedekind-real-numbers.md) with cuts `(L, U)` has lower cut equal to
the negation of elements of `U`, and upper cut equal to the negation of elements
in `L`.
```

**Comment by EgbertRijke** [comment]
Your code looks very good! Thank you so much for all your contributions!!

File: src/elementary-number-theory/strict-inequality-integers.lagda.md [hunk 2]
```diff
@@ -268,3 +268,19 @@ module _
...
+  (x y : ℤ) (I : le-ℤ x y)
+  where
+
+  neg-le-ℤ : le-ℤ (neg-ℤ y) (neg-ℤ x)
+  neg-le-ℤ =
+    tr
+      ( is-positive-ℤ)
+      ( ap (_+ℤ neg-ℤ x) (inv (neg-neg-ℤ y)) ∙
+        commutative-add-ℤ (neg-ℤ (neg-ℤ y)) (neg-ℤ x))
+      I
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/strict-inequality-integers.lagda.md:285]: This type signature is simple enough that the module seems unwarranted

```suggestion
neg-le-ℤ : (x y : ℤ) → le-ℤ x y → le-ℤ (neg-ℤ y) (neg-ℤ x)
neg-le-ℤ x y =
  tr
    ( is-positive-ℤ)
    ( ap (_+ℤ neg-ℤ x) (inv (neg-neg-ℤ y)) ∙
      commutative-add-ℤ (neg-ℤ (neg-ℤ y)) (neg-ℤ x))
```

File: src/elementary-number-theory/strict-inequality-rational-numbers.lagda.md [hunk 3]
```diff
@@ -445,3 +445,11 @@ located-le-ℚ x y z H =
       ( λ p → concatenate-leq-le-ℚ x y z p H)
       ( decide-le-leq-ℚ y x))
 ```
+
+### Negation reverses the ordering of strict inequality on the rational numbers
+
+```agda
+neg-le-ℚ :
+  (x y : ℚ) → le-ℚ x y → le-ℚ (neg-ℚ y) (neg-ℚ x)
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/strict-inequality-rational-numbers.lagda.md:453]: I just want to point out that both your current formatting and the suggestion below are permitted formattings. In this instance, I happen to prefer the suggestion, but that's more of a matter of taste.

```suggestion
neg-le-ℚ : (x y : ℚ) → le-ℚ x y → le-ℚ (neg-ℚ y) (neg-ℚ x)
```

File: src/real-numbers/negation-real-numbers.lagda.md [hunk 4]
```diff
@@ -0,0 +1,156 @@
...
+open import foundation.universe-levels
+
+open import real-numbers.dedekind-real-numbers
+```
+
+</details>
+
+## Idea
+
+The negation of a Dedekind real number with cuts `L, U` has lower cut equal to
```
Comment (fredrik-bakke) [inline src/real-numbers/negation-real-numbers.lagda.md:37]:
```suggestion
The {{#concept "negation" Disambiguation="of a Dedekind real number" Agda=neg-ℝ}} of a [Dedekind real number](real-numbers.dedekind-real-numbers.md) with cuts `L, U` has lower cut equal to
```

File: src/real-numbers/negation-real-numbers.lagda.md [hunk 5]
```diff
@@ -0,0 +1,156 @@
...
+      ( is-rounded-lower-cut-ℝ x (neg-ℚ r))
+      ( elim-exists
+        ( ∃ ℚ (λ q → le-ℚ-Prop (neg-ℚ r) q ∧ lower-cut-ℝ x q))
+        ( λ q (q<r , in-neg-upper-q) →
+          intro-exists (neg-ℚ q) (neg-le-ℚ q r q<r , in-neg-upper-q))
+        ( exists-q))
+
+  is-disjoint-cut-neg-ℝ :
+    (q : ℚ) →
+      ¬ (is-in-subtype lower-cut-neg-ℝ q × is-in-subtype upper-cut-neg-ℝ q)
```
Comment (fredrik-bakke) [inline src/real-numbers/negation-real-numbers.lagda.md:121]:
```suggestion
    (q : ℚ) →
    ¬ (is-in-subtype lower-cut-neg-ℝ q × is-in-subtype upper-cut-neg-ℝ q)
```

File: src/real-numbers/negation-real-numbers.lagda.md [hunk 6]
```diff
@@ -0,0 +1,156 @@
...
+  is-disjoint-cut-neg-ℝ q (in-lower-neg , in-upper-neg) =
+    is-disjoint-cut-ℝ x (neg-ℚ q) (in-upper-neg , in-lower-neg)
+
+  is-located-lower-upper-cut-neg-ℝ :
+    (q r : ℚ) → le-ℚ q r →
+      type-disjunction-Prop (lower-cut-neg-ℝ q) (upper-cut-neg-ℝ r)
```
Comment (fredrik-bakke) [inline src/real-numbers/negation-real-numbers.lagda.md:127]:
```suggestion
    (q r : ℚ) → le-ℚ q r →
    type-disjunction-Prop (lower-cut-neg-ℝ q) (upper-cut-neg-ℝ r)
```

**Review by fredrik-bakke — APPROVED** [review]
Very nice pull request!

**Comment by fredrik-bakke** [comment]
ah, whoops, sorry for the double up review

**Comment by EgbertRijke** [comment]
It looks like this PR just needs a `make pre-commit` and it has a conflict with a previous change that needs to be addressed. To do this, update your branch:

- `git pull` to get any changes made in the PR here on GitHub
- `git pull origin master` to get the changes from master. This will give merge conflicts.
- Resolve the merge conflicts
- Run `make pre-commit`

**Comment by EgbertRijke** [comment]
@lowasser, would you mind wrapping up this pull request when you have time?

**Comment by lowasser** [comment]
Yes, it's on my list.

File: src/real-numbers/negation-real-numbers.lagda.md [hunk 7]
```diff
@@ -0,0 +1,156 @@
+# Negation of real numbers
+
+```agda
+module real-numbers.negation-real-numbers where
```
Comment (fredrik-bakke) [inline src/real-numbers/negation-real-numbers.lagda.md:4]: I have a sneaking feeling that you might want to set `--lossy-unification` for this file. Can you verify this?

Comment (EgbertRijke) [reply src/real-numbers/negation-real-numbers.lagda.md:6]: Is there something wrong with our implementation of the real numbers, that we need lossy unification so much?

**Comment by fredrik-bakke** [comment]
@EgbertRijke
> Is there something wrong with our implementation of the real numbers, that we need lossy unification so much?

Now that you mention it, it likely boils down to the fact that our implementation of the rationals has to reduce fractions between every operation. Alternatively, we could follow 1lab's approach and switch to the definition of the rationals as a quotient rather than as the subtype of reduced fractions, that would probably fix this issue.

**Comment by EgbertRijke** [comment]
> @EgbertRijke
> 
> > Is there something wrong with our implementation of the real numbers, that we need lossy unification so much?
> 
> Now that you mention it, it likely boils down to the fact that our implementation of the rationals has to reduce fractions between every operation. Alternatively, we could follow 1lab's approach and switch to the definition of the rationals as a quotient rather than as the subtype of reduced fractions, that would probably fix this issue.

Could that really be the issue?

There's also a `data` definition of the rationals incoming in #1211, although I haven't done too much with that definition yet. But since it's `data`, it's probably fast.
